Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Aspirin
 
Attending: ___
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HPI: ___ year-old W with PMH of breast Ca s/p lumpectomy/CTX 
currently receiving XRT since ___ and asthma who presents with 
chest pain. She reports sudden onset of non-radiating ___ 
substernal chest pain yesterday beginning at 11 a.m. Pain is 
worse with movement and coughing. It was associated with SOB. 
She has had breast soreness since beginning radiation several 
weeks ago, which is different from the chest pain. She has been 
getting daily radiation treatments. This is also unlike her 
asthma symptoms. Pt denies fever or chills. No cough. Her 
daughter-in-law has had bronchitis.  
.  
In the ED CTA showed no PE. CXR showed atelectasis vs infiltrate 
and she was given levofloxacin 750 mg. EKG showed no ischemic 
changes. She was given ASA 325 mg, Morphine 4 mg IV x 2, and 
tylenol 1 gram. Bedside US showed no pericardial effusion. She 
spiked a temperature to 102 with HR 114 and decrease in SpO2 to 
95% on 3L NC; blood cultures were subsequently sent.  
.  
This AM, patient still complaining of CP with movement, improved 
with pain medications.  
.  
ROS: Denied rhinorrhea or congestion. No orthopnea, ___ edema. 
Denied nausea, vomiting, diarrhea, constipation or abdominal 
pain. No dysuria. Has had headaches for several months, 
underwent MRI on ___ without masses. + breast soreness as above 


 
Past Medical History:
PMH: PCP: ___  
1) breast cancer - Stage I (T1N0) grade III, ER/PR positive, 
HER-2/neu negative, s/p L lumpectomy in ___. Initiated 
Cytoxan/Taxotere chemotherapy ___. Started radiation on 
___.  
2) hypothyroidism  
3) asthma - cold or URI-induced  

 
Social History:
___
Family History:
Mother was diagnosed with "breast cancer" at the age of ___, also 
 
has maternal cousin with breast cancer. No premature CAD.  

 
Physical Exam:
Vitals: T: 99.2/99.7 90/52 HR 90-116 20 100% RA  
General: Awake, alert W with alopecia in NAD, lying flat. 
Conversant, speaking in complete sentences.  
HEENT: EOMI. MMM, OP without lesions  
Neck: supple, no cervical LAD.  
Pulm: CTABL without wheezes  
Cardiac: tachy, regular, nl S1/S2  
Chest: tender to palpation over L breast. no tenderness to 
palpation over sternum or chest wall. well-healed surgical scars 
to lateral L breast and axilla.  
Abdomen: obese, soft, NT/ND, + BS.  
Ext: No edema b/t.  
Neurologic:  
-mental status: Alert & Oriented x 3. Able to relate history 
without difficulty.  

 
Brief Hospital Course:
Assessment and Plan: ___ year-old F with breast Ca s/p 
lumpectomy/CTX receiving XRT and asthma who presents with chest 
pain. Differential includes ACS, pericarditis, radiation 
costochondritis or soft tissue inflammation, PNA, asthma flare. 
Now with three sets of cardiac enzymes negative. Had fever in ED 
with neutrophilic predominance of white count.  
.  
* Chest pain: Ruled out for ACS given lack of ECG changes and 
negative enzymes. Pain exacerbated by movement but not relieved 
with rest. Fever and tachycardia raise suspicion of infectious 
process. WBC count normal to low. CTA negative for PE Completed 
ECHO to r/o pericardial effusion/pericarditis. Pain improved on 
day 2 of admission. Treated with NSAIDs, tylenol, oxycodone prn. 
Also provided incentive spirometry and neb treatments which 
patient reported helped the pain. Therefore discharged with 
inhaler.
.  
* Fever: with 95% neutrophils on white count, most likely 
infectious. UA negative. CXR and CT Chest with possible left 
infiltrate. Treated with course of levaquin. 
 
.  
* Breast Ca: Dr. ___ aware patient in house. Patient 
completed 1 day of radiation while admitted.  
.  
* hypothyrodisim: continued levothyroxine  
.  
* anemia: Hct at baseline  
. 
*Code Status: Full  

 
Medications on Admission:
Calcium  
clonazepam 0.5 mg BID prn  
levothyroxine 88 mcg QDay  
tylenol prn  
ventolin prn 

 
Discharge Medications:
1. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO BID (2 times a day).  
2. Clonazepam 0.5 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day) as needed.  
3. Levothyroxine 88 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. Naproxen 250 mg Tablet Sig: Two (2) Tablet PO Q8H (every 8 
hours).  
5. Levofloxacin 250 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily) for 4 doses.
Disp:*12 Tablet(s)* Refills:*0*
6. Albuterol 90 mcg/Actuation Aerosol Sig: Two (2) puffs 
Inhalation three times a day as needed.
Disp:*1 inhaler* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Community acquired pneumonia
Secondary: Breast cancer s/p radiation

 
Discharge Condition:
Good, chest pain free, vital signs stable.

 
Discharge Instructions:
You were admitted to the hospital with chest pain. This was 
unlikely to be due to your heart as lab tests and 
Electrocradiogram were normal. You were treated for an infection 
with antibiotics. You should complete your prescription. You 
will also be sent home with an inhaler to be used as needed. 
This may be due to radiation and you should discuss this with 
your oncologist.
.
Please contact your doctor or return to the emergency room if 
you develop worrisome symptoms such as worsening chest pain, 
shortness of breath, numbness or tingling in your arm or jaw.
.
 
Followup Instructions:
___